US04722929
8-(2-Dimethylamino-4-nitro-phenyl)-purin-6-one
One gram of 5-amino-4-(2-dimethylamino-4-nitro-benzoylamino)pyrimidin-6-one is refluxed for two hours in 50 ml of glacial acetic acid. The mixture is evaporated to dryness, and the residue is stirred out with ethanol in the warm.

reactant | 5-amino-4-(2-dimethylamino-4-nitro-benzoylamino)pyrimidin-6-one | One gram | NC1=C(N=CNC1=O)NC(C1=C(C=C(C=C1)[N+](=O)[O-])N(C)C)=O | C13H14N6O4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8-(2-Dimethylamino-4-nitro-phenyl)-purin-6-one | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C1=NC2=NC=NC(C2=N1)=O)C | C13H10N6O3
